US05610174
Synthesis of (±)-6-Methoxy-3,4,4a, 5,10,10a-hexahydro-2H-naphtho [2,3-b][1,4]oxazine-4-carboxylic acid benzyl ester.
To a solution of 6-methoxy-3,4,4a,5,10,10 a-hexahydro-2H-naphtho-[2,3-b][1,4]oxazine (0.62 g, 2.7 mmol) in 10 ml of CH2Cl2 was added triethylamine (1.0 ml, 7.2 mmol ) and benzyl chloroformate (0.6 ml, 4.1 mmol). The resulting mixture was stirred at 25° C. for 3 h. It was then diluted with 100 ml of EtOAc and washed with brine. The organic layer was dried over Na2SO4 and concentrated in vacuo, yielding an oily residue which was subjected to column chromatography (20% EtOAc-CH2Cl2) to provide 0.46 g (48%) of the desired product. 1H NMR (300 MHz, CDCl3): δ 2.45 (dd, 1H, J=10.6, 16.6 Hz), 2.83 (dd, 1H, J=10.3, 16.0 Hz), 3.04 (dd, 1H, J=5.0, 16.0 Hz), 3.68-3.88 (m, 6H), 3.76 (s, 3H), 4.02(m, 1H), 5.16 (AB q, 2H, J=17.6 Hz), 6.66 (m, 2H), 7.09 (t, 1H,J=7.8 Hz).

reactant | 6-methoxy-3,4,4a,5,10,10 a-hexahydro-2H-naphtho-[2,3-b][1,4]oxazine | 2.7 mmol, 0.62 g | COC1=C2CC3C(OCCN3)CC2=CC=C1 | C13H17NO2
reactant | triethylamine | 7.2 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 4.1 mmol, 0.6 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | (±)-6-Methoxy-3,4,4a, 5,10,10a-hexahydro-2H-naphtho [2,3-b][1,4]oxazine-4-carboxylic acid benzyl ester | 0.46 g, 48% | C(C1=CC=CC=C1)OC(=O)N1C2C(OCC1)CC1=CC=CC(=C1C2)OC | C21H23NO4
